US09255093B2
To a solution of 4-nitro-2-(prop-1-en-2-yl)-1-(trifluoromethoxy)benzene (275 mg, 1.11 mmol) in toluene (9.85 mL) was added iron (1.24 g, 22.25 mmol) and concentrated HCl (3.38 μL, 0.11 mmol) (3 drops). The mixture was stirred vigorously under reflux and water (0.20 mL, 11.13 mmol) was added and the r×n was stirred at reflux for 2 hr. The crude mixture was filtered through celite and concentrated under reduced pressure. The crude was diluted with EtOAc and dried with Na2SO4, filtered and concentrated under reduced pressure to give 3-(prop-1-en-2-yl)-4-(trifluoromethoxy)aniline (230 mg). LCMS retention time=1.46 minutes (LC method 5); MS (m+1)=218.2.

reactant | 4-nitro-2-(prop-1-en-2-yl)-1-(trifluoromethoxy)benzene | 1.11 mmol, 275 mg | [N+](=O)([O-])C1=CC(=C(C=C1)OC(F)(F)F)C(=C)C | C10H8F3NO3
reactant | water | 11.13 mmol, 0.20 mL | O | H2O
solvent | toluene | 9.85 mL | C1(=CC=CC=C1)C | C7H8
catalyst | HCl | 0.11 mmol, 3.38 μL | Cl | ClH
catalyst | iron | 22.25 mmol, 1.24 g | [Fe] | Fe
product | 3-(prop-1-en-2-yl)-4-(trifluoromethoxy)aniline | 230 mg | C=C(C)C=1C=C(N)C=CC1OC(F)(F)F | C10H10F3NO
